US07157455B2
A solution of (4-amino-2-ethylsulfanyl-pyrimidin-5-yl)-(2-methoxy-5-methyl-phenyl)-methanone, 571 mg, 1.885 mmol, Example 324) in chloroform (16 mL) was cooled to −15° C. and treated with 3-chloroperoxybenzoic acid (503.7 mg, ˜2.25 mmol, ˜70% purity from Aldrich) and the reaction was stirred at the same temperature for 1 hour. The reaction mixture was diluted with methylene chloride (20 mL) and washed with 10% aqueous sodium thiosulfate (2×5 mL), 10% aqueous sodium carbonate (2×5 mL), brine, dried and concentrated to give (4-amino-2-ethanesulfinyl-pyrimidin-5-yl)-(2-methoxy-5-methyl-phenyl)-methanone as a white solid. MS (M+H)+: 320.

reactant | (4-amino-2-ethylsulfanyl-pyrimidin-5-yl)-(2-methoxy-5-methyl-phenyl)-methanone | NC1=NC(=NC=C1C(=O)C1=C(C=CC(=C1)C)OC)SCC | C15H17N3O2S
reactant | 3-chloroperoxybenzoic acid | ˜2.25 mmol, 503.7 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | chloroform | 16 mL | C(Cl)(Cl)Cl | CHCl3
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | (4-amino-2-ethanesulfinyl-pyrimidin-5-yl)-(2-methoxy-5-methyl-phenyl)-methanone | NC1=NC(=NC=C1C(=O)C1=C(C=CC(=C1)C)OC)S(=O)CC | C15H17N3O3S
